US04927958
A solution of 5 ml (60 mmol) of methyl propiolate in 100 ml of tetrahydrofuran was treated at -78° under argon with 41.3 ml of n-butyllithium solution (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 9.73 g (60 mmol) of 4-methoxycinnamaldehyde in 100 ml of tetrahydrofuran was added. The reaction mixture was stirred at -78° for 20 minutes, then warmed to -20° and treated with 100 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether. The combined organic phases were washed with water, dried over sodium sulphate and concentrated. Flash chromatography of the residue on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1) yielded methyl (E)-4-hydroxy-6-(4-methoxyphenyl)-5-hexen-2-ynoate as a yellow oil.

reactant | methyl propiolate | 60 mmol, 5 ml | C(C#C)(=O)OC | C4H4O2
reactant | n-butyllithium | 1.6M, 41.3 ml | C(CCC)[Li]
reactant | 4-methoxycinnamaldehyde | 60 mmol, 9.73 g | COC1=CC=C(C=CC=O)C=C1 | C10H10O2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl (E)-4-hydroxy-6-(4-methoxyphenyl)-5-hexen-2-ynoate | OC(C#CC(=O)OC)\C=C\C1=CC=C(C=C1)OC | C14H14O4
